US07408065B2
d) 2,6-Dichloro-N-(2-cyclohexylethyl)-5-quinolinecarboxamide
Phosphorous oxychloride (2 mL) was added to 6-chloro-5-[[(2-cyclohexylethyl)amino]carbonyl]-1-hydroxy-quinolinium Example 94(c)) (0.089 g) and the mixture heated at 60° C. for 2 hours. The reaction mixture was concentrated under reduced pressure and added to water. The aqueous was extracted with ethyl acetate and the combined organics dried filtered and evaporated give the sub titled compound as a solid (0.079 g).

reactant | Phosphorous oxychloride | 2 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 6-chloro-5-[[(2-cyclohexylethyl)amino]carbonyl]-1-hydroxy-quinolinium | ClC=1C(=C2C=CC=[N+](C2=CC1)O)C(=O)NCCC1CCCCC1
product | 2,6-Dichloro-N-(2-cyclohexylethyl)-5-quinolinecarboxamide | 0.079 g | ClC1=NC=2C=CC(=C(C2C=C1)C(=O)NCCC1CCCCC1)Cl | C18H20Cl2N2O
